US03966832
After having charged an autoclave according to example 3 under the same pressure conditions also specified in example 3 with 125 kg of hydrogen fluoride, a quantity of 84 kg of m-xylene-hexachloride and of 90 kg of hydrogen fluoride are fed in per hour (molar proportion 1:16.7). The reaction components are preheated to 125°C. The reaction temperature is 130°C in the first autoclave and 120°C in the second. m-xylenehexafluoride is obtained at a yield rate of 93.5 % of the theoretical yield, calculated on the m-xylenehexachloride initially used.

reactant | hydrogen fluoride | 125 kg | F | FH
reactant | m-xylene-hexachloride | 84 kg | [Cl-].[Cl-].[Cl-].[Cl-].[Cl-].[Cl-].C1(=CC(=CC=C1)C)C
reactant | hydrogen fluoride | 90 kg | F | FH
product | m-xylenehexafluoride | [F-].[F-].[F-].[F-].[F-].[F-].C1(=CC(=CC=C1)C)C | InChI=1S/C8H10.6FH/c1-7-4-3-5-8(2)6-7;;;;;;/h3-6H,1-2H3;6*1H/p-6
